US04847256
A mixture of 50.0 g of 2,5-dichloroacetophenone and 50 ml of N,N-dimethylacetamide dimethyl acetal was stirred and heated at reflux for 121/2 hours. The mixture was then cooled and evaporated in vacuo to give an oil which crystallized on scratching to give a dark red solid. This was collected and washed with hexane/ether to give 58.8 g of 1-(2,5-dichlorophenyl)-3-(dimethylamino)-2-buten-1-one as a red solid.

reactant | 2,5-dichloroacetophenone | 50.0 g | CC(=O)C1=C(C=CC(=C1)Cl)Cl | C8H6Cl2O
reactant | N,N-dimethylacetamide dimethyl acetal | 50 ml | COC(C)(N(C)C)OC | C6H15NO2
product | 1-(2,5-dichlorophenyl)-3-(dimethylamino)-2-buten-1-one | 58.8 g | ClC1=C(C=C(C=C1)Cl)C(C=C(C)N(C)C)=O | C12H13Cl2NO
